US08431575B2
To a solution of (±)-trans-4-difluoromethyl-3-methoxymethoxy-piperidine-1-carboxylic acid tert-butyl ester (1.52 mmol, 0.45 g) in DCM (2 mL) was added 4 N HCl in dioxane (3 mL). The solution was stirred for 1 hour. The solvents were removed with reduced pressure. The crude amine hydrochloride was dissolved in DCM (3 mL), and saturated NaHCO3 (3 mL). To this suspension was added di-tert-butyl carbonate (4.12 mmol, 0.90 g) and the reaction was stirred for 30 minutes at room temperature. The layers were separated and the DCM layer was dried (Na2SO4), filtered and concentrated under reduced pressure. The crude product was purified on a 12 g SiO2 cartridge using a 0-30% ethyl acetate/hexanes gradient to give (±)-trans-4-difluoromethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.14 g).

reactant | (±)-trans-4-difluoromethyl-3-methoxymethoxy-piperidine-1-carboxylic acid tert-butyl ester | 1.52 mmol, 0.45 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C(F)F)OCOC | C13H23F2NO4
reactant | HCl | 4 N | Cl | ClH
reactant | di-tert-butyl carbonate | 4.12 mmol, 0.90 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (±)-trans-4-difluoromethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.14 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C(F)F)O | C11H19F2NO3
